US04921852
A solution of 2-(4-nitrobenzyloxycarbonyl)amino-1,3-propanediol (1.42 g), (2S,4S)-4-acetylthio-2-formyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.00 g) and 4-toluenesulfonic acid (0.30 g) in toluene was refluxed for 2 hours with removing water under azeotropic condition. The reaction mixture was poured into a mixture of water and ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (80 ml) and eluted with a mixture of acetone and dichloromethane (1:9, V/V) to give (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[5-(4-nitrobenzyloxy- carbonylamino)-1,3-dioxan-2-yl]pyrrolidine (1.47 g).

reactant | 2-(4-nitrobenzyloxycarbonyl)amino-1,3-propanediol | 1.42 g | [N+](=O)([O-])C1=CC=C(COC(=O)NC(CO)CO)C=C1 | C11H14N2O6
reactant | (2S,4S)-4-acetylthio-2-formyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.00 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=O | C15H16N2O6S
reactant | 4-toluenesulfonic acid | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[5-(4-nitrobenzyloxy- carbonylamino)-1,3-dioxan-2-yl]pyrrolidine | 1.47 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1OCC(CO1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C26H28N4O11S
